US04357351
1,3-bis-n-heptyl-1-diethylcarbamyl-2-ethyl isothiourea
100 ml of dry benzene and 5.44 g of 1,3-diheptyl-2-ethyl isothiourea carbamyl chloride were placed in a 200 ml flask equipped with a thermometer and dropping funnel. A solution of 12 ml dry benzene and 2.19 g diethyl amine was added dropwise over 10-12 minutes. An exotherm raised the temperature from 21° to 30° C. The mixture was then heated to 45°-50° C. for 3 hours. The reaction mixture was then cooled to 15° C. and washed twice by 50 ml portions of cold water. The benzene phase was dried by MgSO4, filtered and the solvent removed under reduced pressure. 5.75 g of a liquid (96 weight percent of theory) having a nD30 of 1.4568 was recovered. The structure was confirmed as the title compound by mass spectra analyses. Compound No. 644 in Table I.

reactant | 1,3-diheptyl-2-ethyl isothiourea carbamyl chloride | 5.44 g | C(N)(=O)Cl.C(CCCCCC)NC(SCC)=NCCCCCCC
reactant | diethyl amine | 2.19 g | C(C)NCC | C4H11N
solvent | benzene | 12 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1,3-bis-n-heptyl-1-diethylcarbamyl-2-ethyl isothiourea | C(CCCCCC)N(C(SCC)=NCCCCCCC)C(N(CC)CC)=O | C22H45N3OS
